US08304419B2
Step C: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-[(methylsulfonyl)amino]-1H-indole-2-carboxamide
HATU (0.083 g, 0.218 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.045 g, 0.146 mmol), 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-[(methylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.037 g, 0.146 mmol) and diisopropylethylamine (0.038 mL, 0.218 mmol) in DMF (1 mL). The mixture was stirred at room temperature overnight. The reaction mixture was extracted with ethyl acetate and water. The organic layer wa sdired over sodium sulfate and concentrated. The residue was triturated with methanol to give the title compound (0.036 g, 45%) as a beige solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.56 (s, 1H), 9.53 (br. s., 1H), 8.94 (t, 1H), 7.78 (s, 1H), 7.52 (d, 1H), 7.48 (br. s., 1H), 7.45 (d, 1H), 7.35 (t, 1H), 7.31 (s, 1H), 7.10 (s, 1H), 6.91 (dd, 1H), 4.52 (d, 2 H), 2.87 (s, 3H). ES MS: m/z 547 (M+1).

reactant | HATU | 0.218 mmol, 0.083 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.146 mmol, 0.045 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-[(methylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.146 mmol, 0.037 g | CC(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)NS(=O)(=O)C)C(=O)O | C15H18N2O6S
reactant | diisopropylethylamine | 0.218 mmol, 0.038 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-6-[(methylsulfonyl)amino]-1H-indole-2-carboxamide | 0.036 g, 45% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC(=CC=C2C1)NS(=O)(=O)C)F)OC1=CC(=CC(=C1)C#N)Cl | C24H17Cl2FN4O4S
